US07973175B2
(2R,3S,5S)-5-Hydroxymethyl-3-isopropyl-2-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester IXa
A solution of 0.48 g of (2S,4S,5R)-4-Isopropyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester VIIIa in 10 mL of tetrahydrofuran is cooled to 0° C. and a tetrahydrofuran solution of lithium borohydride (1.0 mL of a 2.0M solution) is added dropwise within 30 minutes. The mixture is stirred for a further 2 hours at 0° C. and quenched by addition of 0.2 mL of glacial acetic acid in 10 mL of tetrahydrofuran. The mixture is diluted with 20 mL of tert-butyl methyl ether and 20 mL of water and the organic phase separated. The organic phase is dried and the solvent removed to give the desired product as an oil. 1H-NMR δ (d6-DMSO/D2O, 300K) 6.90-6.80 (3H), 4.03-3.90 (3H), 3.80 (1H), 3.75 (3H), 3.55-3.45 (3H), 3.23 (3H), 3.05 (1H), 2.00-1.80 (3H), 1.65 (1H), 1.40 (9H), 1.20 (1H), 0.74 (6H).

reactant | (2S,4S,5R)-4-Isopropyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.48 g | CCOC(=O)[C@H]1N([C@H]([C@@H](C1)C(C)C)C1=CC(=C(C=C1)OC)OCCCOC)C(=O)OC(C)(C)C | C26H41NO7
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2R,3S,5S)-5-Hydroxymethyl-3-isopropyl-2-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](C[C@H]1CO)C(C)C)C1=CC(=C(C=C1)OC)OCCCOC | C24H39NO6
